* Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301A\overlay\overlay_TELEMETRYadcCLOCK.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map fault 31
.node_map SIMPV 34
.node_map porb 37
.node_map REF 39
.node_map adc_clock 32
.node_map clock 36
.node_map dft_clock 33
.node_map enable 35
.node_map ADCinput 40
.node_map ok 30
.node_map GND 38
.options
+ PSP_NPT=50001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
.tran 100u 0

.globalvar TEMP=25
.globalvar tdext_khz=10

.globalvar IN = 12
.globalvar VIN = 5.0
.globalvar REF = 1.2
.globalvar VCC2P5=2.4

.globalvar CAP1=2.0
.globalvar CAP2=2.2
.globalvar CAP3=2.4
.globalvar CAP4=2.6

X$CLOCK 34 30 35 31 36 32 33 TELEMETRYadcCLOCK
.PRINT V(#clock)
.GRAPH :#clock axisType="auto" persistence=-1 curveLabel="clock" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe1  
.PRINT V(#enable)
.GRAPH :#enable curveLabel= enable nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe11  
.PRINT V(#ok)
.GRAPH :#ok curveLabel= ok nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe2  
.PRINT V(#fault)
.GRAPH :#fault curveLabel= fault nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe3  
.PRINT V(#adc_clock)
.GRAPH :#adc_clock axisType="auto" persistence=-1 curveLabel="adc_clock" analysis="tran|pop" xLog="auto" yLog="auto"  nowarn=true disabled=false PROBEREF=Probe4  
.PRINT V(#dft_clock)
.GRAPH :#dft_clock curveLabel= dft_clock nowarn=true ylog=auto xlog=auto analysis=tran|pop disabled=false PROBEREF=Probe5  
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
X$U3 36 29 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
V1 35 0 PWL NSEG=2 X0=0 Y0=0 X1=20u Y1=0 X2=20.001u Y2={VIN} 
X$V12 29 0 PUL_SOURCE vars: _V1=0 _V2={VIN} _FREQ=1Meg _DELAY=5u _DRATIOx100=50 _T_RISE=1n _T_FALL=1n _DAMP_COEF=0 _PWIDTH=499n _OFF_UNTIL_DELAY=1 _IDLE_IN_POP=0 _USEPHASE=0 _PHASE=5u
V2 38 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2=0 
V3 34 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={VIN} 
V4 39 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={REF} 
V6 37 0 PWL NSEG=2 X0=0 Y0=0 X1=5u Y1=0 X2=5.001u Y2={VIN} 
V7 40 0 PWL NSEG=2 X0=0 Y0=0 X1=1u Y1=0 X2=2u Y2={REF/2} 
** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301A\design\TELEMETRYadcCLOCK.sxcmp
.subckt TELEMETRYadcCLOCK 27 28 29 30 31 32 33
*#hierarchy
.node_map SIMPV 27
.node_map ok_adcclock 28
.node_map enable_adc 29
.node_map clock 32
.node_map clock_adc 31
.node_map dft_clock 33
.node_map fault_adcclock 30
.node_map hijack_enable_adc 34
X$DEBUG 29 34 28 30 33 TELEMETRYadcCLOCKdebug
X$MAIN 27 28 34 30 31 32 33 TELEMETRYadcCLOCKmain
X$pinprobe1 28 pinprobe vars: pinprobe_description='ADC_clock_enabled_and_ready' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 30 pinprobe vars: pinprobe_description='ADC_cloack_startup_fault' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 32 pinprobe vars: pinprobe_description='ADC_master_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 33 pinprobe vars: pinprobe_description='dft_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$U11 29 pinprobe vars: pinprobe_description='enable-adc' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U20 31 pinprobe vars: pinprobe_description='enable-adc' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U38 27 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
.ends TELEMETRYadcCLOCK

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301A\design\TELEMETRYadcCLOCKdebug.sxcmp
.subckt TELEMETRYadcCLOCKdebug 18 19 20 21 22
*#hierarchy
.node_map ok_adcclock 20
.node_map enable_adc 18
.node_map dft_clock 22
.node_map fault_adcclock 21
.node_map hijack_enable_adc 19
X$dfthijack1 18 19 dfthijack vars: dfthijack_name='ADCCLOCKenable' dfthijack_description='Hijack_ADC_enable' dfthijack_enable='bypass' dfthijack_enabletimeunits1='us' dfthijack_enabletimeunits2='us' dfthijack_enabletimeunits3='us' dfthijack_enabletimeunits4='us' dfthijack_enabletimeunits5='us' dfthijack_enabletimeunits6='us' dfthijack_enabletimeunits7='us' dfthijack_enabletimeunits8='us' dfthijack_state='logic' dfthijack_output='0' dfthijack_timeenablecodes=1 dfthijack_startcode=0 dfthijack_newcode1=1 dfthijack_enabletime1=1 dfthijack_newcode2=1 dfthijack_enabletime2=1 dfthijack_newcode3=1 dfthijack_enabletime3=1 dfthijack_newcode4=1 dfthijack_enabletime4=1 dfthijack_newcode5=1 dfthijack_enabletime5=1 dfthijack_newcode6=1 dfthijack_enabletime6=1 dfthijack_newcode7=1 dfthijack_enabletime7=1 dfthijack_newcode8=1 dfthijack_enabletime8=1 dfthijack_vmax=6 dfthijack_comment=1
X$pinprobe1 20 pinprobe vars: pinprobe_description='ADC_clock_enabled_and_ready' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 21 pinprobe vars: pinprobe_description='ADC_cloack_startup_fault' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 19 pinprobe vars: pinprobe_description='Hijack_enable_adc_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 22 pinprobe vars: pinprobe_description='dft_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe5 18 pinprobe vars: pinprobe_description='enable_adc_clock' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$U1 19 20 17 VESPAdftpulse
X$UADCCLOCKclock 22 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='ADCCLOCKclock' dftprobe_description='Measure_ADC_clock_div16' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UADCCLOCKfault 21 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='ADCCLOCKfault' dftprobe_description='Measure_ADC_clock_fault_flag' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$UADCCLOCKstartup 17 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='ADCCLOCKstartup' dftprobe_description='Measure_ADC_clock_startup_time' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends TELEMETRYadcCLOCKdebug

** From Z:\celera\simplis\LIB\VESPA\VESPAdftpulse.sxcmp
.subckt VESPAdftpulse 7 8 9
*#hierarchy
.node_map start 7
.node_map stop 8
.node_map pulse 9
X$U11 7 pinprobe vars: pinprobe_description='DFT_timer_start_input'
X$U15 8 6 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U17 8 pinprobe vars: pinprobe_description='DFT_timer_stop_input'
X$U52 7 4 6 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U53 4 5 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U55 9 5 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U8 9 pinprobe vars: pinprobe_description='DFT_Timer_pulse'
.ends VESPAdftpulse

** From Z:\celera\projects\Simplis\playcalum\Puget\Puget0\301A\design\TELEMETRYadcCLOCKmain.sxcmp
.subckt TELEMETRYadcCLOCKmain 106 107 108 109 110 111 112
*#hierarchy
.node_map fault 115
.node_map select1 97
.node_map select2 98
.node_map SIMPV 106
.node_map select3 99
.node_map CLOCKconfiguration$10 90
.node_map CLOCKconfiguration$11 91
.node_map CLOCKconfiguration$12 92
.node_map CLOCKconfiguration$13 93
.node_map CLOCKconfiguration$14 94
.node_map CLOCKconfiguration$15 95
.node_map CLOCKconfiguration$3 83
.node_map CLOCKconfiguration$4 84
.node_map CLOCKconfiguration$5 85
.node_map CLOCKconfiguration$6 86
.node_map CLOCKselect$0 80
.node_map CLOCKconfiguration$7 87
.node_map CLOCKselect$1 81
.node_map ck10 102
.node_map CLOCKconfiguration$8 88
.node_map CLOCKconfiguration$9 89
.node_map ok_adcclock 107
.node_map ck2p5 100
.node_map CLOCKdft 82
.node_map BUS4$0 104
.node_map BUS4$1 105
.node_map ck1p25 117
.node_map enable_adc 108
.node_map clock 111
.node_map clock_adc 110
.node_map dft_clock 112
.node_map ck20 103
.node_map ok_clock 114
.node_map fault_adcclock 109
.node_map ok 118
.node_map ck 116
.node_map master_clock 113
.node_map ck5 101
.node_map select0 96
X$clockrequest1 113 99 98 97 96 82 60 59 58 64 65 66 67 68 69 70 103 102 101 100 117 61 62 63 71 72 73 74 75 76 77 78 clockrequest vars: clockrequest_enable0='pin' clockrequest_invert0='no' clockrequest_enable1='pin' clockrequest_invert1='no' clockrequest_enable2='pin' clockrequest_invert2='no' clockrequest_enable3='pin' clockrequest_invert3='no' clockrequest_enable4='pin' clockrequest_invert4='no' clockrequest_enable5='pin' clockrequest_invert5='no' clockrequest_enable6='pin' clockrequest_invert6='no' clockrequest_enable7='pin' clockrequest_invert7='no' clockrequest_enable8='pin' clockrequest_invert8='no' clockrequest_enable9='pin' clockrequest_invert9='no' clockrequest_enable10='pin' clockrequest_invert10='no' clockrequest_enable11='pin' clockrequest_invert11='no' clockrequest_enable12='pin' clockrequest_invert12='no' clockrequest_enable13='pin' clockrequest_invert13='no' clockrequest_enable14='pin' clockrequest_invert14='no' clockrequest_standby='no' clockrequest_dft='no' clockrequest_srambist='no' clockrequest_outputs=5 clockrequest_divide0=0 clockrequest_divide1=1 clockrequest_divide2=2 clockrequest_divide3=4 clockrequest_divide4=8 clockrequest_divide5=16 clockrequest_divide6=6 clockrequest_divide7=7 clockrequest_divide8=1 clockrequest_divide9=1 clockrequest_divide10=1 clockrequest_divide11=1 clockrequest_divide12=1 clockrequest_divide13=1 clockrequest_divide14=1 clockrequest_vmax=6
X$datamap1 80 81 82 83 84 85 86 87 88 89 90 91 92 93 94 95 datamap0 vars: datamap_function='function' datamap_name='TELEMETRYadcClock' datamap_description='ADC_Clock_SH_configuration' datamap_io='input' datamap_status_mode='live' datamap_status_readunits='us' datamap_status_resettimeunits='us' datamap_status_enable='no' datamap_type='factory' datamap_mode='readwrite' datamap_address='NA' datamap_timeenable='no' datamap_por01='0' datamap_por00='0' datamap_por3='0' datamap_por2='0' datamap_por1='0' datamap_por0='0' datamap_function0='Clock_Frequency_decode0' datamap_function0_off='Divide8' datamap_function0_on='Divide4' datamap_function1='Clock_Frequency_decode1' datamap_function1_off='Divide2' datamap_function1_on='Divide1' datamap_function2='Tetsmode_clock' datamap_function2_off='disable' datamap_function2_on='enable' datamap_function3='text' datamap_function3_off='text' datamap_function3_on='text' datamap_function4='text' datamap_function4_off='text' datamap_function4_on='text' datamap_function5='text' datamap_function5_off='text' datamap_function5_on='text' datamap_function6='text' datamap_function6_off='text' datamap_function6_on='text' datamap_function7='text' datamap_function7_off='text' datamap_function7_on='text' datamap_function8='text' datamap_function8_off='text' datamap_function8_on='text' datamap_function9='text' datamap_function9_off='text' datamap_function9_on='text' datamap_function10='text' datamap_function10_off='text' datamap_function10_on='text' datamap_function11='text' datamap_function11_off='text' datamap_function11_on='text' datamap_function12='text' datamap_function12_off='text' datamap_function12_on='text' datamap_function13='text' datamap_function13_off='text' datamap_function13_on='text' datamap_function14='text' datamap_function14_off='text' datamap_function14_on='text' datamap_function15='text' datamap_function15_off='text' datamap_function15_on='text' datamap_code0='text' datamap_code1='text' datamap_code2='text' datamap_code3='text' datamap_code4='text' datamap_code5='text' datamap_code6='text' datamap_code7='text' datamap_code8='text' datamap_code9='text' datamap_code10='text' datamap_code11='text' datamap_code12='text' datamap_code13='text' datamap_code14='text' datamap_code15='text' datamap_range_units='text' datamap_startcode3='0' datamap_startcode2='0' datamap_startcode1='0' datamap_startcode0='0' datamap_newcode13='0' datamap_newcode12='0' datamap_newcode11='0' datamap_newcode10='1' datamap_enabletimeunits1='us' datamap_newcode23='0' datamap_newcode22='0' datamap_newcode21='0' datamap_newcode20='1' datamap_enabletimeunits2='us' datamap_newcode33='0' datamap_newcode32='0' datamap_newcode31='0' datamap_newcode30='1' datamap_enabletimeunits3='us' datamap_newcode43='0' datamap_newcode42='0' datamap_newcode41='0' datamap_newcode40='1' datamap_enabletimeunits4='us' datamap_newcode53='0' datamap_newcode52='0' datamap_newcode51='0' datamap_newcode50='1' datamap_enabletimeunits5='us' datamap_newcode63='0' datamap_newcode62='0' datamap_newcode61='0' datamap_newcode60='1' datamap_enabletimeunits6='us' datamap_newcode73='0' datamap_newcode72='0' datamap_newcode71='0' datamap_newcode70='1' datamap_enabletimeunits7='us' datamap_newcode83='0' datamap_newcode82='0' datamap_newcode81='0' datamap_newcode80='1' datamap_enabletimeunits8='us' datamap_text0=0 datamap_status_read=10 datamap_status_resettime=10 datamap_bits=3 datamap_info=0 datamap_location=0 datamap_text1=0 datamap_text3=0 datamap_text2=0 datamap_range_start=0 datamap_range_lsb=1 datamap_timeenablecodes=1 datamap_enabletime1=200 datamap_enabletime2=1 datamap_enabletime3=1 datamap_enabletime4=1 datamap_enabletime5=1 datamap_enabletime6=1 datamap_enabletime7=1 datamap_enabletime8=1 datamap_vmax=6
X$oscillator1 113 108 114 57 106 115 oscillatorring vars: osc_type='ring' osc_accuracy='yes' osc_datasheet_accuracy_name='ADCLOCKaccuracy' osc_datasheet_accuracy_description='ADC_CLOCK-accuracy_to_20MHz' osc_enable='pin' osc_enable_por='disable' osc_datasheet_enable_name='text' osc_datasheet_enable_description='text' osc_ss='no' osc_standbyclock='no' osc_standbyclockpor='disable' osc_ext_freq_default='no' osc_crystalbias='3.3' osc_crystalglobalref='yes' osc_ss_configuration='fixed' osc_ss_enable_control='fixed' osc_ss_mode_por='sweep' osc_ss_enable_por='enable' osc_ss_clock_sync='synchronized' osc_ss_datasheetname='text' osc_dft='no' osc_ibias='global' osc_int_freq=8k osc_int_duty=50 osc_int_ireplica_gain=0 osc_int_1=0 osc_ext_freq=1k osc_ext_resistor=50 osc_ext_duty=50 osc_ext_replicagain=0 osc_ext_comment=0 osc_crude_freq=1 osc_crude_generatesupply=3.3 osc_crude_duty=50 osc_crystalfreq=1 osc_crystalreflocal=1 osc_crystalcleancountpor=32 osc_ringfreq=20 osc_ss_range_por=5 osc_ss_clock_independent=50 osc_ss_clock_divide=64 osc_vmax=6
X$pinprobe1 107 pinprobe vars: pinprobe_description='ADC_clock_enabled_and_ready' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 109 pinprobe vars: pinprobe_description='ADC_cloack_startup_fault' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe3 111 pinprobe vars: pinprobe_description='ADC_master_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe4 112 pinprobe vars: pinprobe_description='dft_clock' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd' pinprobe_bits=1
X$U1 107 118 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U11 108 pinprobe vars: pinprobe_description='enable-adc' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U2 109 115 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U20 110 pinprobe vars: pinprobe_description='enable-adc' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U25 116 100 101 102 103 80 81 dmux4 vars: dmux_type='pin' dmux_datasheet_name='text' dmux_datasheet_description='text' dmux_inputs=4 dmux_reg_por=1 dmux_vmax=6
X$U38 106 pinprobe vars: pinprobe_description='CAP4_shunt_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U4 111 116 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U5 112 117 dbuf vars: logicgate_type='dbuf' logicgate_vmax=6
X$U6 114 118 110 104 105 79 delayclock vars: delay_type='clock' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=1 delayclock_por=0 delayclock_count0=25 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1000
X$U9 96 97 98 99 80 81 108 decoder2 vars: decoder_type='pin' decoder_datasheet_name='text' decoder_datasheet_description='text' decoder_type_por='0' decoder_enable_pin='pin' decoder_timing='no' decoder_bits=2 decoder_enable_por=0 decoder_vmax=6
.ends TELEMETRYadcCLOCKmain

.end
